US04254260
To a solution of ethyl 2-aminothiazol-4-ylacetate (27.4 g.) in dimethylsulfoxide (135 ml.) was dropwise added methylisocyanate (13.05 g.) with stirring at room temperature, and the mixture was stirred for 3 hours at 40° C. After the reaction, the reaction mixture was poured into water (500 ml.), and then extracted with ethyl acetate. The extract was washed with water and a saturated aqueous solution of sodium chloride in turn and then dried over magnesium sulfate. After distillation of the solvent from the extract, the residue was pulverized in diethyl ether, collected by filtration and then dried to give colorless crystals of ethyl 2-(3-methylureido)thiazol-4-ylacetate (25.7 g.), mp 158° to 159° C.

reactant | ethyl 2-aminothiazol-4-ylacetate | 27.4 g | NC=1SC=C(N1)CC(=O)OCC | C7H10N2O2S
reactant | methylisocyanate | 13.05 g | CN=C=O | C2H3NO
reactant | water | 500 ml | O | H2O
solvent | dimethylsulfoxide | 135 ml | CS(=O)C | C2H6OS
product | ethyl 2-(3-methylureido)thiazol-4-ylacetate | 25.7 g | CNC(NC=1SC=C(N1)CC(=O)OCC)=O | C9H13N3O3S
